US09388185B2
2-(3,5-Dimethoxyphenethyl)-6-(2-(4-methylpiperazin-1-yl)pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazine
The compound was prepared by using procedure analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 1-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]piperazine (from Boron Molecular). LCMS calculated for C26H31N6O2 (M+H)+: m/z=459.2. Found 459.1.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 1-methyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 2-(3,5-Dimethoxyphenethyl)-6-(2-(4-methylpiperazin-1-yl)pyridin-4-yl)-5H-pyrrolo[2,3-b]pyrazine | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC(=NC=C3)N3CCN(CC3)C)C=C(C1)OC | C26H30N6O2
